US07981874B2
(4-Methoxyphenyl)(divinyl)phosphine oxide.
(4-Methoxyphenyl)phosphonic dichloride (2.00 g, 8.89 mmol) was made 0.1 M in 1:1 THF:ether and stirred at −78° C. To this stirring solution vinyl magnesium bromide (17.8 mL, 17.78 mmol, 1M in THF) was added dropwise. The mixture was stirred for 1 h, then quenched with 2M aq. HCl and extracted with DCM (3×). The combined organic extracts were washed with brine, dried (MgSO4) and concentrated to afford the requisite product. MS: cal'd 209 (MH+), exp 209 (MH+)

reactant | (4-Methoxyphenyl)phosphonic dichloride | 8.89 mmol, 2.00 g | COC1=CC=C(C=C1)P(=O)(Cl)Cl | C7H7Cl2O2P
reactant | THF | C1CCOC1 | C4H8O
reactant | vinyl magnesium bromide | 17.78 mmol, 1M, 17.8 mL | C(=C)[Mg]Br
solvent | ether | CCOCC | C4H10O
product | (4-Methoxyphenyl)(divinyl)phosphine oxide | COC1=CC=C(C=C1)P(C=C)(C=C)=O | C11H13O2P
